US04714492
β-Chlorocinnamoyl chloride
A solution of 60 g (0.312 mol) ethyl benzoyl acetate in 96 ml (150 g) of phosphorous trichloride is added dropwise to 150 g (0.72 mol) of phosphorous pentachloride under nitrogen. The suspension that forms is cautiously brought to reflux temperature (HCl evolution observed) and is refluxed and stirred for 2-21/2 hrs. The solution that forms is stripped of phosphorous trichloride and phosphorous oxychloride at atmospheric pressure (76°-82° C.). The pot residue is distilled at 97°-108° C./0.75 mm to give 54 g (86% yield) of product as an isomeric mixture.

reactant | ethyl benzoyl acetate | 0.312 mol, 60 g | CCOC(=O)CC(=O)C1=CC=CC=C1 | C11H12O3
reactant | phosphorous pentachloride | 0.72 mol, 150 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | HCl | Cl | ClH
reactant | phosphorous oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | phosphorous trichloride | 96 ml, 150 g | P(Cl)(Cl)Cl | Cl3P
product | β-Chlorocinnamoyl chloride | 54 g, 86% yield | ClC(=CC(=O)Cl)C1=CC=CC=C1 | C9H6Cl2O
